US04185016
6.5 g of L-proline methyl ester and 10.5 g of N,N'-dicyclohexylcarbodiimide were successively added to an ice-cooled and constantly stirred solution of 10.7 g of 3-hydroxy-4-methoxy-2-nitrobenzoic acid dissolved in a mixture consisting of 180 ml of dichloromethane and 15 ml of N,N'-dimethylformamide, and then the same treatment as in Example 1 was carried out. Thus, there was obtained 12 g of 1-(3-hydroxy-4-methoxy-2-nitrobenzoyl)-L-proline methyl ester as a yellow-colored prismatic crystal having melting point of 108° to 110° C.

reactant | L-proline methyl ester | 6.5 g | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 10.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-hydroxy-4-methoxy-2-nitrobenzoic acid | 10.7 g | OC=1C(=C(C(=O)O)C=CC1OC)[N+](=O)[O-] | C8H7NO6
reactant | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | N,N'-dimethylformamide | 15 ml | CN(C)C=O | C3H7NO
product | 1-(3-hydroxy-4-methoxy-2-nitrobenzoyl)-L-proline methyl ester | 12 g | COC([C@H]1N(CCC1)C(C1=C(C(=C(C=C1)OC)O)[N+](=O)[O-])=O)=O | C14H16N2O7
